US07691877B2
4-Amino-1-benzyl-6-(1H-imidazol-2-yl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
The title compound was prepared following the method of Example 20 using {2-amino-3-nitro-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyridin-4-yl}-benzyl-carbamic acid ethyl ester (174 mg) and Raney nickel (5 mg) in acetic acid (3 ml). This gave initially the SEM protected imidazole compound. Hydrogen chloride in dioxane (4 M, 1 ml) was then added drop-wise and the solution left to stir at room temperature for 24 hours. The reaction mixture was then transferred to a microwave vial (Biotage, 2-5 ml) and heated under microwave irradiation for 10 minutes at 110° C. (Biotage, Initiator 8). The reaction mixture was evaporated then re-dissolved in methanol and the solution loaded onto a cation-exchange cartridge (Bakerbond, sulphonic acid bonded-phase, 1 g). The cartridge was washed with methanol (2×5 ml) to remove impurities and then the product released by eluting with ammonia in methanol (2 M, 5 ml). The desired fractions were combined and evaporated to a brown solid. This was triturated with isopropanol and the solid collected by filtration then washed with more isopropanol, providing the title compound (28 mg) as a pale brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 5.02 (s, 2 H) 5.58 (s, 2 H) 6.91 (s, 1 H) 7.06 (s, 1 H) 7.11 (s, 1 H) 7.25-7.36 (m, 5 H) 10.53 (s, 1 H) 11.99 (s, 1 H). LCMS Rt=1.52 m/z 307 [MH]+hm

reactant | {2-amino-3-nitro-6-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyridin-4-yl}-benzyl-carbamic acid ethyl ester | 174 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)C=1N(C=CN1)COCC[Si](C)(C)C)N)[N+](=O)[O-])=O | C24H32N6O5Si
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | Hydrogen chloride | Cl | ClH
catalyst | Raney nickel | 5 mg | [Ni] | Ni
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 4 M, 1 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-1-benzyl-6-(1H-imidazol-2-yl)-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 28 mg | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C=2NC=CN2 | C16H14N6O
